US07897607B2
1-Benzyl-3-bromo-5-mesitylquinolin-4(1H)-one
1-Benzyl-5-mesitylquinolin-4(1H)-one (0.52 g, 1.5 mmol) was dissolved in N,N-dimethylformamide (10 mL) and cooled to 0° C. N-bromosuccinimide (0.27 g, 1.5 mmol) was added and the reaction stirred for 1 hr. The reaction was quenched with water (100 mL) and the precipitate was collected by vacuum filtration. 0.57 g (90%) of the title compound was obtained as a yellow solid.

reactant | 1-Benzyl-5-mesitylquinolin-4(1H)-one | 1.5 mmol, 0.52 g | C(C1=CC=CC=C1)N1C=CC(C2=C(C=CC=C12)C1=C(C=C(C=C1C)C)C)=O | C25H23NO
reactant | N-bromosuccinimide | 1.5 mmol, 0.27 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-Benzyl-3-bromo-5-mesitylquinolin-4(1H)-one | 0.57 g, 90% | C(C1=CC=CC=C1)N1C=C(C(C2=C(C=CC=C12)C1=C(C=C(C=C1C)C)C)=O)Br | C25H22BrNO
